US05089496
A. 1,2,6-TRIMETHYL-4-CHLOROPIPERIDINE
The starting material, 1,2,6-trimethyl-4-piperidinol, may be prepared by the method disclosed in Archi Kem, Volume 27, pages 189°-192 (1955). To a cooled (ice-bath) solution of 1,2,6-trimethyl-4-piperidinol (12.2 g, 85.3 mmol) in 120 mL of dry benzene was slowly added thionylchloride (17 mL, 233 mmole). The dark reaction mixture was then warmed to 70° C. for 20 min. The reaction was cooled and then suspended in water followed by filtration. The filtrate was extracted once with diethylether. The aqueous layer was separated and then basified with 30% NaOH solution. The product was then extracted twice with CH2Cl2, washed once with brine, dried (Na2SO4), filtered and solvent removed to give a crude brown liquid which was distilled (2-4 mmHg, 62°-64° C.) to give the title compound (8.0g, 58% yield).

reactant | 1,2,6-trimethyl-4-piperidinol | CN1C(CC(CC1C)O)C | C8H17NO
reactant | 1,2,6-trimethyl-4-piperidinol | 85.3 mmol, 12.2 g | CN1C(CC(CC1C)O)C | C8H17NO
reactant | thionylchloride | 233 mmole, 17 mL | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 1,2,6-TRIMETHYL-4-CHLOROPIPERIDINE | 8.0g, 58% yield | CN1C(CC(CC1C)Cl)C | C8H16ClN
